US05851792
A dried aglucone isoflavone material weighing 7.3 g and containing 49% genistein, 19% daidzein, and 4% glycitein is obtained.

reactant | isoflavone | O1C=C(C(=O)C2=CC=CC=C12)C1=CC=CC=C1 | C15H10O2
reactant | genistein | C1=CC(=CC=C1C2=COC=3C=C(C=C(C3C2=O)O)O)O | C15H10O5
reactant | daidzein | C1=CC(=CC=C1C2=COC=3C=C(C=CC3C2=O)O)O | C15H10O4
product | glycitein | 4% | COC=1C=C2C(=CC1O)OC=C(C2=O)C=3C=CC(=CC3)O | C16H12O5
